US07598248B2
6-(dimethylamino)-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol.
A mixture of tert-butyl 5-bromo-2-oxo-3-(pentan-3-yl)-2,3-dihydroimidazo[4,5-b]pyrazine-1-carboxylate (200 mg, 0.52 mmol), dimethylamine (0.5 mL, 2M in THF, 1.0 mmol), Pd3(dba)2 (48 mg, 0.052 mmol), BiPhP(Cy)2 (37 mg, 0.10 mmol) and NaOtBu (150 mg, 1.56 mmol) in anhydrous toluene (4 mL) was purged with N2 for 15 second and then stirred at 120° C. for 20 minutes in microwave. The mixture was diluted with EtOAc, washed with NaHCO3 solution, dried over Na2SO4, and then concentrated in vacuo to give a dark muddy residue. The residue was dissolved in MeOH (10 mL) and treated with 1 mL 4M HCl in dioxane. After one hour, the reaction was concentrated, diluted with EtOAc, washed with NaHCO3, dried over Na2SO4, and concentrated in vacuo. Purification over silica gel (Biotage MPLC 10-70% EtOAc/hexanes) gave the title compound as a light yellow solid (42 mg, 32%).

reactant | tert-butyl 5-bromo-2-oxo-3-(pentan-3-yl)-2,3-dihydroimidazo[4,5-b]pyrazine-1-carboxylate | 0.52 mmol, 200 mg | BrC=1N=C2C(=NC1)N(C(N2C(CC)CC)=O)C(=O)OC(C)(C)C | C15H21BrN4O3
reactant | dimethylamine | 1.0 mmol, 2M, 0.5 mL | CNC | C2H7N
reactant | NaOtBu | 1.56 mmol, 150 mg | CC(C)(C)[O-].[Na+]
reactant | HCl | 4M, 1 mL | Cl | ClH
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 10 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(dimethylamino)-1-(pentan-3-yl)-1H-imidazo[4,5-b]pyrazin-2-ol | 42 mg, 32% | CN(C1=CN=C2C(=N1)N(C(=N2)O)C(CC)CC)C | C12H19N5O
